US07521457B2
a) 3-methoxy-4-nitro-benzonitrile
25 g (150.504 mmol) 3-fluoro-4-nitrobenzonitrile and 25 g (462.757 mmol) sodium methoxide are dissolved in 125 ml THF at 0° C. This reaction mixture is stirred for 30 min. The reaction mixture is extracted with ethyl acetate and 1 N hydrochloric acid. The organic phase is dried with magnesium sulphate and the solvent is eliminated in vacuo.

reactant | 3-fluoro-4-nitrobenzonitrile | 150.504 mmol, 25 g | FC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3FN2O2
reactant | sodium methoxide | 462.757 mmol, 25 g | C[O-].[Na+]
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 3-methoxy-4-nitro-benzonitrile | COC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O3
